US08486953B2
a) Preparation of tert-butyl 3-(3-nitropyridin-2-yloxy)azetidine-1-carboxylate
Sodium hydride (60% dispersion in oil, 2.30 g, 57.64 mmol) was added portionwise into a solution of 1-Boc-3-(hydroxy)azetidine (9.94 g, 57.64 mmol) in anhydrous THF (110 mL) at 0° C. and stirred for 0.5 hour. A solution of 2-fluoro-3-nitro-pyridine (7.80 g, 54.9 mmol) in anhydrous THF (15 mL) was added drop wise and the mixture allowed to warm to ambient temperature overnight. The mixture was cooled in an ice-bath and water (50 mL) added. The product was extracted with EtOAc, washed with water, brine and dried (Na2SO4). The product was purified by flash-column chromatography (petroleum ether (40-60° C.)/DCM) to yield the title compound as a yellow solid (4.37 g, 27%).

reactant | Sodium hydride | 57.64 mmol, 2.30 g | [H-].[Na+]
reactant | 1-Boc-3-(hydroxy)azetidine | 57.64 mmol, 9.94 g | C(=O)(OC(C)(C)C)N1CC(C1)O | C8H15NO3
reactant | 2-fluoro-3-nitro-pyridine | 54.9 mmol, 7.80 g | FC1=NC=CC=C1[N+](=O)[O-] | C5H3FN2O2
reactant | water | 50 mL | O | H2O
solvent | THF | 110 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(3-nitropyridin-2-yloxy)azetidine-1-carboxylate | 4.37 g, 27% | [N+](=O)([O-])C=1C(=NC=CC1)OC1CN(C1)C(=O)OC(C)(C)C | C13H17N3O5
